US04403027
A 86.5 g quantity of naphthalic acid (i.e., 1,8-naphthalic acid or 1,8-naphthalene dicarboxylic acid) was dissolved in 300 g of ethyl cellosolve, and chromium acetate (0.2 equivalent calculated as atomic weight of Cr) and 30 g of urea were added to the solution. The mixture was stirred at 100° to 115° C. for 2 hours. The reaction mixture was in the form of a bluish green supernatent liquid. The mixture was cooled to 30° C. and placed into 1 liter of water containing 60 g of 35% hydrochloric acid, whereby a pale bluish green precipitate was formed. The precipitate was filtered off and washed with water until the pH thereof became 6 to 7. The precipitate was dried to give 95 g of Cr complex compound of 1,8-naphthalic acid (hereinafter referred to as "Complex Compound 2"). Complex Compound 2 was found to have good thermal stability (as tested at temperatures of below 350° C. in the same manner as described in Example 1).

reactant | naphthalic acid | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | urea | 30 g | NC(=O)N | CH4N2O
reactant | water | 1 liter, 60 g | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl cellosolve | 300 g | CCOCCO | C4H10O2
catalyst | chromium acetate | 0.2 equivalent | C(C)(=O)[O-].[Cr+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | 1,8-naphthalic acid | C1=CC2=C(C(=C1)C(=O)O)C(=CC=C2)C(=O)O | C12H8O4
